US08629150B2
Tert-butyl 4-((6-((4-(3-bromopropoxy)benzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzoate (90 mg, 0.15 mmol) and 4 N HCl in dioxane (2 mL) were stirred for 10 mins then concentrated under vacuum to give 4-((6-((4-(3-bromopropoxy)benzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzoic acid which was carried to the next step without purification.

reactant | Tert-butyl 4-((6-((4-(3-bromopropoxy)benzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzoate | 0.15 mmol, 90 mg | BrCCCOC1=CC=C(CNC2=CC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=C1 | C27H30BrF3N4O4
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-((6-((4-(3-bromopropoxy)benzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzoic acid | BrCCCOC1=CC=C(CNC2=CC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)O)C=C2)C=C1 | C23H22BrF3N4O4
